US04943635
Other chiral γ-aminoalcohols include cis-2-phenyl-4-hydroxypiperidine (which may be prepared by the Michael addition of O-benzylhydroxylamine to methyl vinyl ketone to yield 2-(benzyloxyamino)ethyl methyl ketone, followed by an intramolecular Mannich reaction with benzaldehyde to yield 1-benzyloxy-4-oxo-2-phenylpiperidine, reduction with sodium borohydride to the corresponding 4-hydroxy compound, removal of the N-benzyloxy group with hydrogen and palladium catalyst, and resolution of the resulting 4-hydroxy-2-phenylpiperidine with the use of an optionally active acid, such as mandelic acid) and the like.

reactant | cis-2-phenyl-4-hydroxypiperidine | C1(=CC=CC=C1)[C@@H]1NCC[C@@H](C1)O | C11H15NO
reactant | O-benzylhydroxylamine | C(C1=CC=CC=C1)ON | C7H9NO
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
product | 2-(benzyloxyamino)ethyl methyl ketone | CC(=O)CCNOCC1=CC=CC=C1 | C11H15NO2
